Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Plaquenil / lisinopril / 
Percocet / naproxen
 
Attending: ___
 
Chief Complaint:
falls, worsening RUE weakness
 
Major Surgical or Invasive Procedure:
Cyberknife radiation (SRS) on ___, and 
___

 
History of Present Illness:
Mrs. ___ is a ___ ___ lady with a recent diagnosis of
NSCLC metastatic to liver and brain who has received her first
cycle of pembrolizumab ~4 weeks ago presented to OSH ED with
worsening RUE weakness and falls, transferred to ___ since due
for SRS ___. 
 
ED initial vitals were  97.2 69 155/74 17 100% RA  
Prior to transfer vitals were  97.8 80 174/60 16 96% RA 

Exam in the ED showed : "Alert, oriented x3. Normal S1S2, RRR,
clear lungs bilaterally. ___ intact, RUE with poor
coordination of active motion but intact flexion and extension 
at
elbow, grip strength intact bilaterally, motor strength ___ in
lower extremities"
 
ED ___ significant for:
-CBC: WBC: 28.0*. HGB: 11.6. Plt Count: 138*. Neuts%: 96.2*. 
-Chemistry: Na: 131*. K: 4.2. Cl: 96. CO2: 24. BUN: 26*. Creat:
0.7. Ca: 8.2*. Mg: 2.1. PO4: 2.5*. 
-Lactate:
-Coags: INR: 1.0. PTT: 23.1*. 
-CT head NC: "1. Minimally changed left parietal lobe mass and
associated vasogenic edema. Unchanged mild mass effect with no
midline shift. 2. No evidence of intracranial hemorrhage"

ED management significant for:
-Medications: Dexamethasone 8mg po

On arrival to the floor, patient reports now feeling well. She
had an episode this morning where she stumbled in the stairs
because "her knee gave out" but she did not fall or hit any part
of her body. She did not feel faint or lightheaded. When she was
engaging a step to get into one of her sons truck she was unable
to get on the truck which is unusual for her. She does not 
really
feel that her right arm is weaker but that her whole body is
weaker. Her son reports that she has been somewhat confused,
asking questions that are out of place or not following her 
usual
routine. She denies being confused. She also reports needing to
urinate very frequently although not having any dysuria. 

Patient denies fevers/chills, night sweats, headache, vision
changes, dizziness/lightheadedness,numbnesss, shortness of
breath, cough, hemoptysis, chest pain, palpitations, abdominal
pain, nausea/vomiting, diarrhea, hematemesis,
hematochezia/melena, dysuria, hematuria, and new rashes. 

 
Past Medical History:
-COPD 
-Hyperlipidemia
-Hypertension
-NSCLC metastatic to liver and brain
 
Social History:
___
Family History:
Cannot recall any family history of cancer at this moment.  
 
Physical Exam:
Admission exam:
VS: 98.2 180/68 98 18 93 RA 
GENERAL: ___ appearing lady with Cushingoid
appearance, currently in no distress lying in bed comfortably.
HEENT: Anicteric, PERLL, Mucous membranes moist, OP clear.
CARDIAC: Regular rate and rhythm, normal heart sounds, no
murmurs, rubs or gallops.
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi.
ABD: ___, normal bowel sounds, soft, ___, no
guarding, no palpable masses, no organomegaly.
EXT: Warm, well perfused. 2+ bilateral lower extremity edema. No
erythema or tenderness.
NEURO: Alert and oriented x3. Short attention span. Mentation
with staccato cadence and minimal phrasic errors, CN ___
intact. Sensation to light touch intact. Slightly weaker grip on
___ though ___. Right sided pronator drift and
___ strength to arm extension with preserved flexion. Faint
bilateral tremor. 
SKIN: Facial and neck flushing. Bilateral palmar erythema.

Discharge physical exam:
Vitals: 98.1, ___, 20, 94% RA
GENERAL: ___ appearing lady with Cushingoid 
appearance, currently in no distress lying in bed comfortably
HEENT: Anicteric, PERLL, Mucous membranes moist, OP clear.
CARDIAC: Regular rate and rhythm, normal heart sounds, no 
murmurs, rubs or gallops.
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi.
ABD: ___, normal bowel sounds, soft, ___, no 
guarding, no palpable masses, no organomegaly.
EXT: Warm, well perfused. 2+ bilateral lower extremity edema. No
erythema or tenderness.
NEURO: Alert and oriented x3. CN ___ intact. Sensation to 
light touch intact. ___ grip strength bilaterally. Faint 
bilateral tremor. ___ strength preserved ___. 
 
Pertinent Results:
Admission labs:
---------------
___ 07:50PM BLOOD ___ 
___ Plt ___
___ 07:50PM BLOOD ___ 
___ Im ___ 
___
___ 07:50PM BLOOD ___ ___
___ 07:50PM BLOOD ___ 
___
___ 05:00AM BLOOD ___ LD(___)-415* CK(CPK)-63 
___
___ 07:50PM BLOOD ___

Discharge labs:
----------------
___ 05:00AM BLOOD ___ 
___ Plt ___
___ 05:00AM BLOOD ___ 
___
___ 05:00AM BLOOD Plt ___
___ 04:30AM BLOOD ___ LD(LDH)-390* ___ 
___
___ 05:00AM BLOOD ___

Microbiology:
-------------
                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

Radiology:
----------
CT Head without contrast ___:
1. Unchanged left parietal lobe mass and associated vasogenic 
edema.  
Unchanged mild mass effect with no midline shift. 
2. No evidence of hemorrhage. 

CXR ___:
Right lung predominant opacities presumably reflect at least a 
component of known primary lung malignancy and lung metastases. 
Cannot exclude superimposed pneumonia on the basis of this 
examination. Recommend correlation with outside hospital 
___ imaging, if available. 

 
Brief Hospital Course:
Mrs. ___ is a ___ ___ lady with a recent diagnosis of 
___ metastatic to liver and brain who has received her first 
cycle of pembrolizumab ~4 weeks ago presented to OSH ED with 
generalized weakness and mild encephalopathy, transferred to 
___ for scheduled SRS

#Generalized weakness
#Fall risk
#Encephalopathy: Her symptoms are most likely secondary to 
___ steroid ___ altering her ___ cycle and 
perhaps causing some early steroid myopathy (usually within ___ 
weeks). She was evaluated by ___ who recommended home with home 
___ and ___. Her weakness improved with SRS treatment, and on 
discharge, she had ___ strength of upper and lower extremities. 
She demonstrated some memory loss, which according to family may 
be her baseline. 

#Brain metastatic disease: One 3.4cm ___ metastatic 
lesions with significant surrounding edema was noted, and 
unchanged on ___ CT scan compared to ___ MRI. She underwent 
cyberknife SRS on ___ for a total of 3 treatments. She was 
continued on dexamethasone 8 mg q8h, and was tapered to 
dexamethasone 8 mg q12h on ___ after her completion of her SRS. 
She will have ___ MRI.

#Hypertension: Increased SBP likely in setting of high dose 
steroids. She was continued on home amlodipine and HCTZ, and her 
labetalol was increased to 200 mg TID. This should be tapered 
down if her BP decreases with steroid taper. 

#Leukocytosis: Likely medication effect from steroids. 

#Transaminitis: Likely from liver metastases of lung cancer

#COPD: Continued on advair (instead of home symbicort) and 
albuterol

#Urinary retention: Bladder scanned for 700 cc with insertion of 
foley on admission. Foley then removed on ___, and patient then 
voided well.

#Lower extremity edema: Likely to be secondary to 
mineralocorticoid effect of high dose steroids. 

Transitional Issues:
- INCREASED labetalol to 200 mg TID in the setting of steroid 
induced hypertension. Please monitor daily BP and downtitrate 
labetalol as needed to maintain SBP ___.
- TAPERED dexamethasone to 8 mg q12h on ___. To be further 
tapered at outpatient oncologist appointment as per physician 
discretion
- CONSIDER PJP prophylaxis if on prolonged course of steroids

#EMERGENCY CONTACT / HCP: Health care proxy chosen: No
Verified on date: ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ondansetron 4 mg PO Q8H:PRN nausea 
2. Dexamethasone 8 mg PO Q8H 
3. LORazepam 0.5 mg PO BID:PRN anxiety/nausea/insomnia 
4. Labetalol 200 mg PO DAILY 
5. amLODIPine 10 mg PO DAILY 
6. Omeprazole 20 mg PO DAILY 
7. Hydrochlorothiazide 25 mg PO DAILY 
8. Vitamin D 1000 UNIT PO DAILY 
9. Symbicort ___ mcg/actuation 
inhalation BID 
10. fenofibrate micronized 134 mg oral DAILY 
11. Albuterol Inhaler ___ PUFF IH Q6H:PRN sob 

 
Discharge Medications:
1.  Dexamethasone 8 mg PO Q12H  
2.  Labetalol 200 mg PO TID 
RX *labetalol 200 mg 1 tablet(s) by mouth three times a day Disp 
#*90 Tablet Refills:*0 
3.  Albuterol Inhaler ___ PUFF IH Q6H:PRN sob  
4.  amLODIPine 10 mg PO DAILY  
5.  fenofibrate micronized 134 mg oral DAILY  
6.  Hydrochlorothiazide 25 mg PO DAILY  
7.  LORazepam 0.5 mg PO BID:PRN anxiety/nausea/insomnia  
8.  Omeprazole 20 mg PO DAILY  
9.  Ondansetron 4 mg PO Q8H:PRN nausea  
10.  Symbicort ___ mcg/actuation 
inhalation BID  
11.  Vitamin D 1000 UNIT PO DAILY  
12.rolling walker
Rolling walker. Dx: ___ fatigue ___: R53.0) 
Px: good, ___: 13 months

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis: 
- Generalized weakness
- Encephalopathy
- Metastatic NSCLC to the brain and liver
- Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted for weakness and confusion. You were treated 
with cyberknife radiation therapy (3 treatments total), which 
you tolerated well. You were also given high dose steroids 
(dexamethasone). Finally, your blood pressure was high so we 
increased your home blood pressure medications.

You are scheduled for ___ appointments with Oncology and 
an MRI, which are listed below.

It was a pleasure to take care of you!

Sincerely,
Your ___ team
 
Followup Instructions:
___